US07001917B2
Step 1. 2-[3-(3,5-Dimethyl-4-phenyl-1H-pyrazol-1-yl)phenyl]ethanol
The title compound was prepared according to the procedure described in step 1 of Example 1 from 3-phenyl-2,4-pentanedione and 2-(3-hydrazinophenyl)ethanol (WO 94/07896) hydrochloride: MS (ESI) m/z 293 [M+H]+, 1H-NMR (CDCl3) δ 7.44-7.22 (9H, m), 3.87 (2H, t, J=6.0 Hz), 2.67 (2H, t, J=6.0 Hz), 2.33 (3H, s), 2.15 (3H, s).

reactant | 3-phenyl-2,4-pentanedione | C1(=CC=CC=C1)C(C(C)=O)C(C)=O | C11H12O2
reactant | 2-(3-hydrazinophenyl)ethanol | N(N)C=1C=C(C=CC1)CCO | C8H12N2O
reactant | hydrochloride | Cl | ClH
product | 2-[3-(3,5-Dimethyl-4-phenyl-1H-pyrazol-1-yl)phenyl]ethanol | CC1=NN(C(=C1C1=CC=CC=C1)C)C=1C=C(C=CC1)CCO | C19H20N2O
